* Operational transconductance amplifier
.subckt OTA_3526 1 2 3
Ri 1 2 {Ri}
G1 0 3 value={gm*V(1,2)}
Ro 3 0 {Ro}
Co 3 0 {1/( 2*pi*Ro*Fo )}
.ends OTA_3526

