* Ideal Comparator
* Marcos Alonso - May 2021
*
.subckt MyComparator in+ in- pos neg out
E1 out  0    value={if(V(in+,in-)>0, V(pos),V(neg))}
R1 in-  in+  1e6
R2 neg  0    1e6
R3 pos  0    1e6
.ends MyComparator